US04572912
0.48 g of ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate was dissolved in a mixture of 5 ml of 99.5% ethanol and 2 ml of tetrahydrofuran. To this was added dropwise, under a nitrogen stream at 8°-10° C., a solution prepared by dissolving 133 mg of sodium hydroxide in 1 ml of 99.5% ethanol. When the whole of the solution had been added, the mixture was reacted for a further 18 hours at 0°-5° C., after which it was neutralized by adding to it dropwise a solution prepared by dissolving 0.37 g of concentrated hydrochloric acid in 1 ml of 99.5% ethanol. The solvent was then distilled off from the mixture under reduced pressure. The pale reddish oil thus separated was extracted with chloroform, and the chloroform extract was washed with water and then dried over anhydrous sodium sulfate. The crude product obtained by distilling the chloroform off under reduced pressure was subjected to silica gel column chromatography, and the desired 2-chloro-3-[4-(6-hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]propionic acid was obtained from the fractions eluted with a 10:1 by volume mixture of benzene and ethyl acetate. Rf value on thin layer chromatography: 0.4 (tailing) [silica gel; developing solvent; benzene:99.5% ethanol=6:1 by volume]. Melting point 148°-149° C.

reactant | ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate | 0.48 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)C | C27H33ClO6
reactant | sodium hydroxide | 133 mg | [OH-].[Na+]
reactant | hydrochloric acid | 0.37 g | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 2-chloro-3-[4-(6-hydroxy-2,5,7,8-tetramethylchroman-2-ylmethoxy)phenyl]propionic acid | ClC(C(=O)O)CC1=CC=C(C=C1)OCC1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)C | C23H27ClO5
